### PR TITLE
A simplification tactic for Z-module equations, specific to Z

### PR DESCRIPTION
**Pull request by pi8027**
This PR implements the `Z_zmodule_simplify` tactic. For example, it turns a goal of the form
```coq
(x + y + - z + y)%Z = (x + - z + y + y')%Z
```
into
```coq
y = y'.
```

This kind of reflexive tactic leaving a proof obligation needs to simplify the obligation carefully. I'm not sure whether the current implementation is the best way to do so.

### CODE REVIEW

File: ac_simplifier/elpi/theories/AC.v [hunk 1]
```diff
@@ -155,27 +163,89 @@ induction e as [j| |e IHe|e1 IHe1 e2 IHe2]; simpl; trivial.
...
 
+(* the reflection lemma for simplifying commutative group equations *)
+Lemma ZMsimpl_correct (vm : list G) (e1 e2 : AGExpr) :
+  let sum zero add zs :=
+    match zs with cons z zs => List.fold_left add zs z | nil => zero end
+  in
+  (forall zero add vm', zero = zeroG -> add = addG -> vm' = vm ->
+   let norm := ZMnorm (AGAdd e1 (AGOpp e2)) in
+   let '(xs, ys) := ZMsimpl_aux vm' norm in
+   sum zero add xs = sum zero add ys) ->
```
Comment (pi8027) [inline ac_simplifier/elpi/theories/AC.v:189]: This is the proof obligation of the `Z_zmodule_simplify` tactic: `zero`, `add`, and `vm'` are abstracted out to make sure that they will not be reduced. I thought that `norm` should be reduced by `vm_compute`, and the other part should be reduced by `lazy` or `compute` because its readback seems to be costly.

It is quite intricate, so should be documented in detail.

File: ac_simplifier/elpi/theories/Tactic.v [hunk 2]
```diff
@@ -45,3 +52,48 @@ zmod-reflection _ _ _ _ _ :-
...
+  let add := fresh "add" in
+  let vm := fresh "vm" in
+  let zeroE := fresh "zeroE" in
+  let addE := fresh "addE" in
+  let vmE := fresh "vmE" in
+  let norm := fresh "norm" in
+  apply (@ZMsimpl_correct_Z VM ZE1 ZE2);
+  intros zero add vm zeroE addE vmE norm;
+  vm_compute in norm; compute;
+  rewrite zeroE, addE, vmE; clear zero add vm zeroE addE vmE norm.
```
Comment (pi8027) [inline ac_simplifier/elpi/theories/Tactic.v:69]: And this is the normalization of the proof obligation.
